US05166383
N-methyl-3-(2,2-dimethylpropylimino)-propylamine
75.0 g (0.87 mol) of pivalaldehyde are added dropwise to a solution of 76.7 g (0.87 mol) of 3-methylaminopropylamine in 200 ml of dry cyclohexane. After the addition, the solution is heated under reflux in a water separator for 3 hours. The solvent is then removed in a rotary evaporator and the residue is distilled. Boiling point: 69° C./67 mbar

reactant | pivalaldehyde | 0.87 mol, 75.0 g | C(C(C)(C)C)=O | C5H10O
reactant | 3-methylaminopropylamine | 0.87 mol, 76.7 g | CNCCCN | C4H12N2
reactant | water | O | H2O
solvent | cyclohexane | 200 ml | C1CCCCC1 | C6H12
product | N-methyl-3-(2,2-dimethylpropylimino)-propylamine | CNCCC=NCC(C)(C)C | C9H20N2
